*All Together Now
.INCLUDE averagersubcir.cir	*x1
.INCLUDE followersubcir.cir	*x2
.INCLUDE rectifiersubcir.cir	*x3
.INCLUDE sallenkeysubcir.cir	*x4
.INCLUDE summing_test.cir	*x4
.INCLUDE tethersubcir.cir	*x5
.INCLUDE comparatorsubcir.cir   *x6
.INCLUDE ad8045.cir
.INCLUDE opamptest.cir

*Voltages
*pulse(V_low V_high start_delay rise_time fall_time high_time period)
V1 osc 0 pulse(0 1 0 10n 10n 35n 71n)
V2 data 0 pulse(0 5 0 10n 10n 1u 2u)
Bdep dataosc 0 V=(v(osc)*v(data))
*Vin datasim 0 sin(2.5 2.5 14000K)
video1 videosim1 0 sin(2.5 .05 66000k)
video2 videosim2 0 sin(2.5 .05 69000k)
*Progression*
x1 dataosc videosim1 summed summing
x2 summed trans tether
x3 trans followed follower
x4 followed f1 sallenkey
x5 f1 f2 sallenkey
x6 f2 rect rectifier
x7 rect averaged averager
x8 averaged nout comparator

.control
*Simulates 5 periods @ 14Mhz
*tran 1.75n 1.357u
tran 1.75n 10u
*tran 50u 200u
*Graphs input and output of System
*plot v(datasim) v(videosim1) v(videosim2) v(summed)
*plot v(summed) v(trans)
*plot v(trans) v(followed)
*plot v(f1) v(f2)
*plot v(summed) v(rect)
*plot v(rect) v(averaged)
plot v(averaged) 
set filetype=ascii
write output.txt v(rect)
run
.endc
