*Comparator
.INCLUDE ad8045.cir

*Voltages*
Vin nin 0 pulse(2.66 2.73 24n 48n 0n 70.31n)
Vo n0 0 5 DC
vcc nvcc 0 dc 10


*Components*
R44  n0 1 1.5K
R45 1 0 1.6K
C55 1 0 .1n
Rt nout 0 100
x1 1 nin nout n0 0 AD8045

.control
*Simulates 5 periods at 14Mhz
	tran 1.79ns .321us
*Graphs input and output of Superdiode
	plot  v(nin) v(1) v(nout)
	run
.endc
