Voltage Follower 
*get Ad8045
.INCLUDE ad8045.cir
*Voltages
*Vin nin 0 sin(2.5 1 14000K) 
Vin nin 0 pulse(0 .5 0 0 0 35n 71n)
Vo 2 0 5 DC

*Components
X1  nin nout 1 2 0 AD8045
R37 1 nout 10
C43 1 nout 10p
C71 2 0 10p
C72 2 0 10p

.control
*Simulates 5 periods at 14Mhz
	tran 1.79ns .35714us
*Graphs input and output of Superdiode
	plot v(nin) 
	plot v(nout)
	run
.endc



