Test
.INCLUDE followersubcir.cir

*Voltage
vin 1 0 sin(2.5 1 14000K)

*component
x1 1 2 follower

.control
*Simulates 5 periods at 14Mhz
	tran 1.79ns .35714us
*Graphs input and output
	plot v(1) 
	plot v(2)
	run
.endc

