*get the ad8045 circuit file
.INCLUDE ad8045.cir
*Voltages
Vin nin 0 DC 0 AC sin(2.5 .2 18000k)
VGV n_gvirt 0 2.5 DC
VCC n_vcc 0 DC 5
*define our components
*Component names correlate with those in Eagle with exception of Diodes D1 and D2
R41 nin in- 100
R40 in+ n_gvirt 0
R42 in- nout 440
C52 n_vcc 0 .1u 
C51 n_vcc 0 .1u 
D1 in- 5
D2 5 nout
Rload nout n_gvirt 200
X1  in+ in- 5 n_vcc 0 AD8045

.control
*Simulates 5 periods at 14Mhz
	tran 1.79ns .35714us
*Graphs input and output of Superdiode
	plot v(nin) v(nout)
	run
.endc

*MAKE ADJUSTMENTS on rectifier for gain, easy to do can complete demo


.INCLUDE ad8045.cir
		
