*get the ad8045 circuit file
.INCLUDE ad8045.cir

*define our components
R1  nr n1 240
R2  n1 in+ 240
RA  in- n4 1K
RB  in- out 10
*C1  in+ 0 22pF
C2  n1 out 22pF
X1  in+ in- out n3 0 AD8045
Ct n0 nr 220p
*create vin and power for opamp
VIN n0 0 AC sin(2.5 1 14000K)
VCC n3 0 DC 5.0
VCCvirt n4 0 DC 2.5


.control
	*ngspice doesnt like MHz
	*simulate ac input from 0.1Hz to 70MHz with 200 data points
*	ac lin 200 0.1Hz 70000000Hz
*	plot -20*log10(abs(out/n0))
	tran 1.75n .357u
	plot out n0
.endc
