*get the ad8045 circuit file
.INCLUDE ad8045.cir

C1 input1 n1 .1u
R1 n1 in_p 5K
C2 input2 n2 .1u
R2 n2 in_p 1K
*C3 input3 n3 .1u
*R3 n3 in_p 1K
R4 input4 in_p 1K

*RA in- nvirt 200
RB out in- 200
*CB out in- 10pF
X1  in_p in- out nvcc 0 AD8045

*create vin and power for opamp
*pulse(V_low V_high start_delay high_time period_time)
*sin(dc_offset amplitude freq)

*VIN input1 0 pulse(0 5 0 0 0 35n 71n)
VIN input1 0 sin(2.4 2.5 14000K)
VIN2 input2 0 sin(2.5 1 66000K)
*VIN3 input3 0 sin(2.5 1 69000K)
VIN4 input4 0 DC 2.5

VCC nvcc 0 DC 5
VCCvirt nvirt 0 DC 2.5

.control

	*simulate 5 periods @ 14MHz
	tran 3.57n 357n
	plot out input1 
	run
*	plot fourier 11 input1 vs fourier 11 input2
.endc
