* Simulation of non-inverting amplifier
.INCLUDE ad8045.cir

C3 input1 nin 220p
R6 nin nvirt 75
R7 nout nim 200
R15 nim nvirt 100
R37 nout final 10

X1 nin nim nout nvcc 0 ad8045

Vin input1 0 DC 0 AC sin(0 1 14000K)
Vcc nvcc 0 DC 5
Vvirt nvirt 0 DC 2.5

.control
	tran 3.57n 357n
	plot nin nout 
	run
.endc
