*Tether
*Parts*
L1 n_vin n_teth 20m
*non ideal component of inductor

R1 n_datain 3 82
C1 3 n_teth .01u

L2 n_teth n_vout 20m
Rload n_vout 0 150

C2 n_teth n_dataout .01u
R2 n_dataout n_25 82

*large resistor to fix ideal capacitors in series
Rbig n_teth 0 1G

*Input*
*Vin n_vin 0 48 DC
V25 n_25 0 2.5 DC
*Vdata n_datain 0 pulse(2 3 0 0 0 35n 71n)
Vdata n_datain 0 AC 1

*charge the caps instantly so we don't have to wait
.ic v(n_dataout)=2.5V
.ic v(3)=2.5V
.control
	ac lin 200 0.1Hz 10KHz
*	tran 1.79ns .35714us
	plot v(n_dataout) v(n_datain)
	run
.endc

		
