#!/usr/bin/ngspice
*Simulation of tether circuit without inductors

*Values


*Input*
Vdata 5 0 AC sin(0 1 10000Khz) 

*Parts*
R1 5 1 75
C1 1 6 7n
C2 6 7 7n
R2 7 0 75

Rbig 6 0 999G
 

*sin(dc_offset amplitude freq)	

.control
	tran .01us .1us
	plot v(7)
	run
.endc

		
